US08426447B2
A vial was charged with (S)-3-bromo-7-iodo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine (302.9 mg, 0.661 mmol), 2-fluoro-3-pyridineboronic acid (102 mg, 0.727 mmol), potassium carbonate (457 mg, 3.31 mmol), and tetrakis(triphenylphosphine)palladium(0) (38.2 mg, 0.033 mmol). The vial was flushed with Ar (g), then dioxane (3306 μL) and water (1.7 mL) were added in sequence. The vial was sealed and placed in a 75° C. oil bath for 2 hours. The mixture was diluted with EtOAc (15 mL) and brine (15 mL). The layers were separated, and the aq. layer was extracted with EtOAc (2×15 mL). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The residue was purified by chromatography on a 40-g Redi-Sep column, eluting with 0-60% of a 90:10:1 mix of DCM/MeOH/NH4OH in DCM to give (S)-3-bromo-7-(2-fluoropyridin-3-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine as an off-white solid.

reactant | (S)-3-bromo-7-iodo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | 0.661 mmol, 302.9 mg | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)I | C14H9BrIN3O2
reactant | 2-fluoro-3-pyridineboronic acid | 0.727 mmol, 102 mg | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | potassium carbonate | 3.31 mmol, 457 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.033 mmol, 38.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-3-bromo-7-(2-fluoropyridin-3-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C(=NC=CC1)F | C19H12BrFN4O2
